US08258130B2
2.0 M of NaHMDS (sodium bis(trimethylsilyl)amide) in THF is added to a stirred solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid chloride (0.72 mmol) and 5-methanesulfonyl-indol-1-ylamine (0.72 mmol) and in anhydrous pyridine (10 mL) at rt. The reaction mixture is stirred at 90° C. overnight and then concentrated in vacuo. The residue is purified ny silica gel chromatography eluting with 1.5% MeOH in DCM to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-methanesulfonyl-indol-1-yl)-amide (50 mg, 8%) as a solid. MS: 425 (M+H); 1H NMR (300 MHz, CDCl3): δ 2.86 (s, 3H), 3.02 (s, 3H), 6.55 (s, H) 6.92 (d, H), 7.17-7.38 (m, 3H), 7.53 (m, H), 7.78 (s, H), 8.27 (d, H), 8.38 (d, H), 9.16 (s, H).

reactant | NaHMDS | 2.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid chloride | 0.72 mmol | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)Cl | C12H8ClFN2O
reactant | 5-methanesulfonyl-indol-1-ylamine | 0.72 mmol | CS(=O)(=O)C=1C=C2C=CN(C2=CC1)N | C9H10N2O2S
solvent | THF | C1CCOC1 | C4H8O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-methanesulfonyl-indol-1-yl)-amide | 50 mg, 8% | CS(=O)(=O)C=1C=C2C=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C21H17FN4O3S
